US07279469B2
4-[5-Amino-1-(6-phenoxy-benzothiazol-2-yl)-1H-[1,2,4]triazol-3-ylamino]-benzenesulfonamide:
Bromine (7 μl, 1 equivalent) was added to a stirred suspension of 5-amino-3-(4-sulfamoyl-phenylamino)-[1,2,4]triazole-1-carbothioic acid (4-phenoxy-phenyl)-amide in dichloromethane (3 ml). The reaction mixture was stirred at room temperature for 18 hours. A solution of bromine (7 μl) in acetic acid (1 ml) was then added to push the reaction to completion: the reaction mixture was stirred for a further four hours. A white solid precipitated and was removed by filtration to afford the title compound (5 mg; 7% yield). 1H NMR (400 MHz, DMSO-d6) 7.05-7.20 (8H, m), 7.35-7.50 (4H, m), 7.70-7.75 (2H, d), 7.80-7.85 (2H, d), 9.90-9.95 (1H, s); MS (ES+) m/e=480

reactant | Bromine | 7 μl, 1 equivalent | BrBr | Br2
reactant | 5-amino-3-(4-sulfamoyl-phenylamino)-[1,2,4]triazole-1-carbothioic acid (4-phenoxy-phenyl)-amide | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC(=S)N1N=C(N=C1N)NC1=CC=C(C=C1)S(N)(=O)=O | C21H19N7O3S2
reactant | bromine | 7 μl | BrBr | Br2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 4-[5-Amino-1-(6-phenoxy-benzothiazol-2-yl)-1H-[1,2,4]triazol-3-ylamino]-benzenesulfonamide | 5 mg, 7% yield | NC1=NC(=NN1C=1SC2=C(N1)C=CC(=C2)OC2=CC=CC=C2)NC2=CC=C(C=C2)S(=O)(=O)N | C21H17N7O3S2
